US05998424
3-(4-Methoxyphenyl)-5-carbomethoxy methyl-isoxazolin-5-ylcarboxylic acid
4-Methoxybenzaldehyde oxime (5.00 g, 33.1 mmol) and itaconic acid monomethyl ester (5.72 g, 39.7 mol) were added together with 200 mL of THF. To the above mixture was added bleach (84 mL of 0.67M aqueous solution) dropwise at room temperature. The reaction mixture was then stirred at RT under N2 for 12 h. The THF was removed in vacuo. The aqueous mixture was acidified with aqueous HCl and extracted with EtOAc. The EtOAc solution was washed with brine, dried over MgSO4, concentrated, and chromatographed with 10-30% MeOH in CH2Cl2 on silica gel to give 5.58 g of the desired product (58%). 1H NMR (DMSC-d6): δ63.08 (m, 2H); 3.61 (s, 3H); 3.55-3.87 (m, 2H); 3.80 (s, 3H); 7.00 (d, 2H); 7.61 (d, 2H).

reactant | 4-Methoxybenzaldehyde oxime | 33.1 mmol, 5.00 g | COC1=CC=C(C=NO)C=C1 | C8H9NO2
reactant | itaconic acid monomethyl ester | 39.7 mol, 5.72 g | COC(C(=C)CC(=O)O)=O | C6H8O4
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-(4-Methoxyphenyl)-5-carbomethoxy methyl-isoxazolin-5-ylcarboxylic acid | 5.58 g, 58% | COC1=CC=C(C=C1)C1=NOC(C1)(CC(=O)OC)C(=O)O | C14H15NO6
